US05736534
6,7-Dimethoxy-4-(7-methyl-2,3-dihydro-indol-1-yl)-quinazoline
Utilizing a procedure analogous to that described in Example 24, this product was prepared in 65% yield from 7-methyl-indoline (1 eq.), pyridine (2 eq.) and 4-chloro-6,7-dimethoxy-quinazoline (1.0 eq) in DMF. (M.P. 146°-147° C.; GC-MS: 321 (M+); anal. RP18-HPLC RT: 4.41 min.).

reactant | 7-methyl-indoline | 1 eq. | CC=1C=CC=C2CCNC12 | C9H11N
reactant | pyridine | 2 eq. | N1=CC=CC=C1 | C5H5N
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 6,7-Dimethoxy-4-(7-methyl-2,3-dihydro-indol-1-yl)-quinazoline | 65% yield | COC=1C=C2C(=NC=NC2=CC1OC)N1CCC2=CC=CC(=C12)C | C19H19N3O2
